US09108939B2
D: 2-(4-((4-(4-Aminophenylthio)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
4-(Piperidin-4-ylthio)aniline (6.69 mmol, 1.3946 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (6.69 mmol, 2.256 g), and potassium carbonate (13.39 mmol, 1.850 g) were combined in acetonitrile (20 mL) and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was concentrated under vacuum, and partitioned between dichloromethane and water. The organic layer was separated, dried, and concentrated under vacuum. The residue was purified by silica column chromatography (eluting with 2.5-5% methanol/dichloromethane gradient) to afford the title compound (1.93 g). MS m/z 465.0 [M+H]+

reactant | 4-(Piperidin-4-ylthio)aniline | 6.69 mmol, 1.3946 g | N1CCC(CC1)SC1=CC=C(N)C=C1 | C11H16N2S
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 6.69 mmol, 2.256 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 13.39 mmol, 1.850 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(4-((4-(4-Aminophenylthio)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.93 g | NC1=CC=C(C=C1)SC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H22F6N2OS
